US08084620B2
A solution of (3-bromo-4-fluorophenyl)methanamine hydrochloric acid salt (500 mg, 2.079 mmol) in pyridine (6 mL) was stirred on ice and treated with acetic anhydride (0.235 mL, 2.495 mmol). The resulting solution was stirred at rt for 17 h, then was concentrated. The residue was stirred in 1 M hydrochloric acid, forming a precipitate which was collected by filtration, rinsed with water and dried to provide N-(3-bromo-4-fluorobenzyl)acetamide as a white solid (435 mg, 85%). 1H NMR (400 MHz, chloroform-d) δ 7.47 (dd, J=6.6, 2.2 Hz, 1H) 7.20 (ddd, J=8.6, 4.6, 2.2 Hz, 1H) 7.07 (t, J=8.3 Hz, 1H) 5.84 (br. s., 1H) 4.38 (d, J=5.9 Hz, 2H) 2.04 (s, 3H). Mass spectrum m/z 246, 248 (M+H)+.

reactant | (3-bromo-4-fluorophenyl)methanamine hydrochloric acid salt | 2.079 mmol, 500 mg | Cl.BrC=1C=C(C=CC1F)CN
reactant | acetic anhydride | 2.495 mmol, 0.235 mL | C(C)(=O)OC(C)=O | C4H6O3
solvent | pyridine | 6 mL | N1=CC=CC=C1 | C5H5N
product | N-(3-bromo-4-fluorobenzyl)acetamide | 435 mg, 85% | BrC=1C=C(CNC(C)=O)C=CC1F | C9H9BrFNO
